** sch_path: /foss/designs/SAR_ADC_IHP/xschem/dac_icms_cell/testbenches/tb_dac_only.sch
**.subckt tb_dac_only
x3 vdacp vcm b9 b7 b0 b11 b3 b4 b2 b1 b8 b6 b5 b10 GND VDD sample vdacn vinp vinn d9 d7 d0 d11 d3 d4 d2 d1 d8 d6 d5 d10 dac
+ cu=100f
V1 vdd GND 1.8
V2 vcm GND .9
V3 vinp vcm 500m
V4 clk GND PULSE( 0 1.8 7n 10p 10p 1n 2n)
V7 sample GND PULSE( 0 1.8 0 1p 1p 5n 10n 1)
XM2 GND vdacp GND GND sg13_lv_nmos w=4.0u l=0.13u ng=1 m=1
XM1 GND vdacn GND GND sg13_lv_nmos w=4.0u l=0.13u ng=1 m=1
V8 b11 GND 0
V9 b10 GND 0
V10 b9 GND 0
V11 b8 GND 0
V12 b7 GND 0
V13 b6 GND 0
V14 b5 GND 0
V15 b4 net1 0
V16 b3 GND 0
V17 b2 GND 0
V18 b1 GND 0
V19 b0 GND 0
V20 d11 GND 0
V21 d10 GND 0
V22 d9 GND 0
V23 d8 GND 0
V24 d7 GND 0
V25 d5 GND 0
V26 d6 GND 0
V27 d4 GND 0
V28 d3 GND 0
V29 d2 GND 0
V30 d1 GND 0
V31 d0 GND 0
V5 vcm vinn 500m
**** begin user architecture code


.param temp=27
.param W_P = 1.0u
.param L_P = 0.13u
.param W_N = 1.0u
.param L_N = 0.13u
.options savecurrents klu method=gear reltol=1e-2 abstol=1e-15 gmin=1e-10
.control

* Transient Analysis
tran 100p 20n

*plot {d0} {d1 + 4} {d2 + 8} {d3 + 12} {d4 + 16} {d5 + 20} {d6 + 24} {d7 + 28} {d8 + 32} {d9 + 36} {d10 + 40} {d11 + 44}
*plot {b0} {b1 + 4} {b2 + 8} {b3 + 12} {b4 + 16} {b5 + 20} {b6 + 24} {b7 + 28} {b8 + 32} {b9 + 36} {b10 + 40} {b11 + 44}
*plot {clk} {comp_in + 2} {sample + 4}
plot vdacp vdacn sample
plot {vdacp-vdacn}
plot x3.x14.net1-vdacp x3.x18.vcap-vdacn

.endc




** IHP models
.lib cornerMOSlv.lib mos_tt
.lib cornerMOShv.lib mos_tt
.lib cornerHBT.lib hbt_typ
.lib cornerRES.lib res_typ
.include /foss/pdks/ihp-sg13g2/libs.ref/sg13g2_stdcell/spice/sg13g2_stdcell.spice


**** end user architecture code
**.ends

* expanding   symbol:  dac_icms_cell/dac.sym # of pins=32
** sym_path: /foss/designs/SAR_ADC_IHP/xschem/dac_icms_cell/dac.sym
** sch_path: /foss/designs/SAR_ADC_IHP/xschem/dac_icms_cell/dac.sch
.subckt dac vdacn vcm b9 b7 b0 b11 b3 b4 b2 b1 b8 b6 b5 b10 VSS VDD sample_pin vdacp vinp vinn D9 D7 D0 D11 D3 D4 D2 D1 D8 D6 D5
+ D10  cu=5u
*.ipin D0
*.ipin b0
*.ipin D1
*.ipin b1
*.ipin D2
*.ipin b2
*.ipin D3
*.ipin b3
*.ipin D4
*.ipin b4
*.ipin D5
*.ipin b5
*.ipin D6
*.ipin b6
*.ipin D7
*.ipin b7
*.ipin D8
*.ipin b8
*.ipin D9
*.ipin b9
*.ipin D10
*.ipin b10
*.ipin D11
*.ipin b11
*.iopin vinp
*.iopin vcm
*.ipin sample_pin
*.iopin vinn
*.iopin vdacp
*.iopin vdacn
*.iopin VSS
*.iopin VDD
x14 b0 a_rail_p VSS D0 VDD vdacn unit_cell_n W_P_SPDT=1.0u L_P_SPDT=0.13u W_N_SPDT=1.0u L_N_SPDT=0.13u Cu=cu n=32
x15 b1 a_rail_p VSS D1 VDD vdacn unit_cell_n W_P_SPDT=1.0u L_P_SPDT=0.13u W_N_SPDT=1.0u L_N_SPDT=0.13u Cu=cu n=16
x16 b2 a_rail_p VSS D2 VDD vdacn unit_cell_n W_P_SPDT=1.0u L_P_SPDT=0.13u W_N_SPDT=1.0u L_N_SPDT=0.13u Cu=cu n=8
x1 b3 a_rail_p VSS D3 VDD vdacn unit_cell_n W_P_SPDT=1.0u L_P_SPDT=0.13u W_N_SPDT=1.0u L_N_SPDT=0.13u Cu=cu n=4
x2 b4 a_rail_p VSS D4 VDD vdacn unit_cell_n W_P_SPDT=1.0u L_P_SPDT=0.13u W_N_SPDT=1.0u L_N_SPDT=0.13u Cu=cu n=2
x3 b5 a_rail_p VSS D5 VDD vdacn unit_cell_n W_P_SPDT=1.0u L_P_SPDT=0.13u W_N_SPDT=1.0u L_N_SPDT=0.13u Cu=cu n=1
x4 b6 a_rail_p VSS D6 VDD vdacn2 unit_cell_n W_P_SPDT=1.0u L_P_SPDT=0.13u W_N_SPDT=1.0u L_N_SPDT=0.13u Cu=cu n=32
x5 b7 a_rail_p VSS D7 VDD vdacn2 unit_cell_n W_P_SPDT=1.0u L_P_SPDT=0.13u W_N_SPDT=1.0u L_N_SPDT=0.13u Cu=cu n=16
x6 b8 a_rail_p VSS D8 VDD vdacn2 unit_cell_n W_P_SPDT=1.0u L_P_SPDT=0.13u W_N_SPDT=1.0u L_N_SPDT=0.13u Cu=cu n=8
x7 b9 a_rail_p VSS D9 VDD vdacn2 unit_cell_n W_P_SPDT=1.0u L_P_SPDT=0.13u W_N_SPDT=1.0u L_N_SPDT=0.13u Cu=cu n=4
x8 b10 a_rail_p VSS D10 VDD vdacn2 unit_cell_n W_P_SPDT=1.0u L_P_SPDT=0.13u W_N_SPDT=1.0u L_N_SPDT=0.13u Cu=cu n=2
x9 b11 a_rail_p VSS D11 VDD vdacn2 unit_cell_n W_P_SPDT=1.0u L_P_SPDT=0.13u W_N_SPDT=1.0u L_N_SPDT=0.13u Cu=cu n=1
x11 VDD sample VSS vdacn vcm sample_n transmission_gate_lv_w_dummy W_P=0.15u L_P=0.13u W_N=0.15u L_N=0.13u W_P_D=1.0u L_P_D=0.13u
+ W_N_D=1.0u L_N_D=0.13u n=64
x12 VDD sample VSS a_rail_p vinp sample_n transmission_gate_lv_w_dummy W_P=0.15u L_P=0.13u W_N=0.15u L_N=0.13u W_P_D=1.0u
+ L_P_D=0.13u W_N_D=1.0u L_N_D=0.13u n=64
x13 VDD sample_n_d VSS a_rail_p vcm sample_d transmission_gate_lv_w_dummy W_P=0.15u L_P=0.13u W_N=0.15u L_N=0.13u W_P_D=1.0u
+ L_P_D=0.13u W_N_D=1.0u L_N_D=0.13u n=64
x17 VDD sample_n sample VSS inverter_lv W_P=10.0u L_P=0.13u W_N=10.0u L_N=0.13u n=10
x18 b0 a_rail_n VSS D0 VDD vdacp unit_cell W_P_SPDT=1.0u L_P_SPDT=0.13u W_N_SPDT=1.0u L_N_SPDT=0.13u Cu=cu n=32
x19 b1 a_rail_n VSS D1 VDD vdacp unit_cell W_P_SPDT=1.0u L_P_SPDT=0.13u W_N_SPDT=1.0u L_N_SPDT=0.13u Cu=cu n=16
x20 b2 a_rail_n VSS D2 VDD vdacp unit_cell W_P_SPDT=1.0u L_P_SPDT=0.13u W_N_SPDT=1.0u L_N_SPDT=0.13u Cu=cu n=8
x21 b3 a_rail_n VSS D3 VDD vdacp unit_cell W_P_SPDT=1.0u L_P_SPDT=0.13u W_N_SPDT=1.0u L_N_SPDT=0.13u Cu=cu n=4
x22 b4 a_rail_n VSS D4 VDD vdacp unit_cell W_P_SPDT=1.0u L_P_SPDT=0.13u W_N_SPDT=1.0u L_N_SPDT=0.13u Cu=cu n=2
x23 b5 a_rail_n VSS D5 VDD vdacp unit_cell W_P_SPDT=1.0u L_P_SPDT=0.13u W_N_SPDT=1.0u L_N_SPDT=0.13u Cu=cu n=1
x24 b6 a_rail_n VSS D6 VDD vdacp2 unit_cell W_P_SPDT=1.0u L_P_SPDT=0.13u W_N_SPDT=1.0u L_N_SPDT=0.13u Cu=cu n=32
x25 b7 a_rail_n VSS D7 VDD vdacp2 unit_cell W_P_SPDT=1.0u L_P_SPDT=0.13u W_N_SPDT=1.0u L_N_SPDT=0.13u Cu=cu n=16
x26 b8 a_rail_n VSS D8 VDD vdacp2 unit_cell W_P_SPDT=1.0u L_P_SPDT=0.13u W_N_SPDT=1.0u L_N_SPDT=0.13u Cu=cu n=8
x27 b9 a_rail_n VSS D9 VDD vdacp2 unit_cell W_P_SPDT=1.0u L_P_SPDT=0.13u W_N_SPDT=1.0u L_N_SPDT=0.13u Cu=cu n=4
x28 b10 a_rail_n VSS D10 VDD vdacp2 unit_cell W_P_SPDT=1.0u L_P_SPDT=0.13u W_N_SPDT=1.0u L_N_SPDT=0.13u Cu=cu n=2
x29 b11 a_rail_n VSS D11 VDD vdacp2 unit_cell W_P_SPDT=1.0u L_P_SPDT=0.13u W_N_SPDT=1.0u L_N_SPDT=0.13u Cu=cu n=1
x31 VDD sample VSS vdacp vcm sample_n transmission_gate_lv_w_dummy W_P=0.15u L_P=0.13u W_N=0.15u L_N=0.13u W_P_D=1.0u L_P_D=0.13u
+ W_N_D=1.0u L_N_D=0.13u n=64
x32 VDD sample VSS a_rail_n vinn sample_n transmission_gate_lv_w_dummy W_P=0.15u L_P=0.13u W_N=0.15u L_N=0.13u W_P_D=1.0u
+ L_P_D=0.13u W_N_D=1.0u L_N_D=0.13u n=64
x33 VDD sample_n_d VSS a_rail_n vcm sample_d transmission_gate_lv_w_dummy W_P=0.15u L_P=0.13u W_N=0.15u L_N=0.13u W_P_D=1.0u
+ L_P_D=0.13u W_N_D=1.0u L_N_D=0.13u n=64
x34 VDD sample_pin sample_n VSS inverter_lv W_P=1.0u L_P=0.13u W_N=1.0u L_N=0.13u n=10
C1 vdacn2 vdacn cu m=1
C2 vdacp2 vdacp cu m=1
x35 VDD sample VSS vdacn2 vcm sample_n transmission_gate_lv_w_dummy W_P=0.15u L_P=0.13u W_N=0.15u L_N=0.13u W_P_D=1.0u L_P_D=0.13u
+ W_N_D=1.0u L_N_D=0.13u n=64
x36 VDD sample VSS vdacp2 vcm sample_n transmission_gate_lv_w_dummy W_P=0.15u L_P=0.13u W_N=0.15u L_N=0.13u W_P_D=1.0u L_P_D=0.13u
+ W_N_D=1.0u L_N_D=0.13u n=64
C3 vdacn2 a_rail_p cu m=1
C4 vdacp2 a_rail_n cu m=1
x10 VDD sample_n_d sample_d VSS inverter_lv W_P=10.0u L_P=0.13u W_N=10.0u L_N=0.13u n=10
x30 VDD net1 sample_n_d VSS inverter_lv W_P=1.0u L_P=0.13u W_N=1.0u L_N=0.13u n=10
x37 net1 VDD VDD VSS sg13g2_dlygate4sd3_1
.ends


* expanding   symbol:  dac_icms_cell/unit_cell_n.sym # of pins=6
** sym_path: /foss/designs/SAR_ADC_IHP/xschem/dac_icms_cell/unit_cell_n.sym
** sch_path: /foss/designs/SAR_ADC_IHP/xschem/dac_icms_cell/unit_cell_n.sch
.subckt unit_cell_n B A VSS D VDD vtop  W_P_SPDT=1.0u L_P_SPDT=0.13u W_N_SPDT=1.0u L_N_SPDT=0.13u Cu=8f n=1
*.iopin VSS
*.iopin A
*.iopin VDD
*.ipin D
*.iopin B
*.iopin vtop
x1 VDD D VSS net1 B A dac_switch_n W_P_TG=0.15u L_P_TG=0.13u W_N_TG=0.15u L_N_TG=0.13u n=n
C1 net1 vtop cu m=n
.ends


* expanding   symbol:  transmission_gate/transmission_gate_lv_w_dummy.sym # of pins=6
** sym_path: /foss/designs/SAR_ADC_IHP/xschem/transmission_gate/transmission_gate_lv_w_dummy.sym
** sch_path: /foss/designs/SAR_ADC_IHP/xschem/transmission_gate/transmission_gate_lv_w_dummy.sch
.subckt transmission_gate_lv_w_dummy VDD di_tg_ctrl VSS v_b v_a di_tg_ctrl_n  W_P=2.0u L_P=0.13u W_N=2.0u L_N=0.13u W_P_D=1.0u
+ L_P_D=0.13u W_N_D=1.0u L_N_D=0.13u n=1
*.iopin v_a
*.iopin v_b
*.iopin VDD
*.iopin VSS
*.ipin di_tg_ctrl
*.ipin di_tg_ctrl_n
XM1 v_a di_tg_ctrl v_b VSS sg13_lv_nmos w=W_N l=L_N ng=1 m=n
XM2 v_a di_tg_ctrl_n v_b VDD sg13_lv_pmos w=W_P l=L_P ng=1 m=n
XMdummy2 v_b di_tg_ctrl v_b VDD sg13_lv_pmos w=W_P_D l=L_P_D ng=1 m={n/2}
XMdummy1 v_b di_tg_ctrl_n v_b VSS sg13_lv_nmos w=W_N_D l=L_N_D ng=1 m={n/2}
.ends


* expanding   symbol:  inverter/inverter_lv.sym # of pins=4
** sym_path: /foss/designs/SAR_ADC_IHP/xschem/inverter/inverter_lv.sym
** sch_path: /foss/designs/SAR_ADC_IHP/xschem/inverter/inverter_lv.sch
.subckt inverter_lv VDD vin vout VSS  W_P=3.0u L_P=0.13u W_N=1.0u L_N=0.13u n=1
*.ipin vin
*.iopin VDD
*.iopin VSS
*.opin vout
XM1 vout vin VDD VDD sg13_lv_pmos w=W_P l=L_P ng=1 m=n
XM2 vout vin VSS VSS sg13_lv_nmos w=W_N l=L_N ng=1 m=n
.ends


* expanding   symbol:  dac_icms_cell/unit_cell.sym # of pins=6
** sym_path: /foss/designs/SAR_ADC_IHP/xschem/dac_icms_cell/unit_cell.sym
** sch_path: /foss/designs/SAR_ADC_IHP/xschem/dac_icms_cell/unit_cell.sch
.subckt unit_cell B A VSS D VDD vtop  W_P_SPDT=1.0u L_P_SPDT=0.13u W_N_SPDT=1.0u L_N_SPDT=0.13u Cu=8f n=1
*.iopin VSS
*.iopin A
*.iopin VDD
*.ipin D
*.iopin B
*.iopin vtop
x1 VDD D VSS vcap B A dac_switch W_P_TG=0.15u L_P_TG=0.13u W_N_TG=0.15u L_N_TG=0.13u n=n
C1 vcap vtop Cu m=n
.ends


* expanding   symbol:  dac_icms_cell/dac_switch_n.sym # of pins=6
** sym_path: /foss/designs/SAR_ADC_IHP/xschem/dac_icms_cell/dac_switch_n.sym
** sch_path: /foss/designs/SAR_ADC_IHP/xschem/dac_icms_cell/dac_switch_n.sch
.subckt dac_switch_n VDD di_spdt_ctrl VSS v_c v_b v_a  W_P_TG=3.0u L_P_TG=0.13u W_N_TG=1.0u L_N_TG=0.13u n=1
*.iopin v_a
*.iopin v_c
*.iopin VDD
*.iopin VSS
*.ipin di_spdt_ctrl
*.iopin v_b
x1 VDD di_spdt_ctrl_n VSS v_c v_a di_spdt_ctrl transmission_gate_lv_wo_dummy W_P=W_P_TG L_P=L_P_TG W_N=W_N_TG L_N=L_N_TG
x8 VDD di_spdt_ctrl di_spdt_ctrl_n VSS inverter_lv W_P=W_P_TG L_P=L_P_TG W_N=W_N_TG L_N=L_N_TG n=n
XM1 net1 net2 VSS VSS sg13_lv_nmos w=1u l=0.2u ng=1 m=n
XM3 net1 net2 VDD VDD sg13_lv_pmos w=2u l=0.2u ng=1 m=n
x2 VDD di_spdt_ctrl VSS v_c net1 di_spdt_ctrl_n transmission_gate_lv_w_dummy W_P=W_P_TG L_P=L_P_TG W_N=W_N_TG L_N=L_N_TG
+ W_P_D=1.0u L_P_D=0.13u W_N_D=1.0u L_N_D=0.13u n=n
XM2 net2 v_b VSS VSS sg13_lv_nmos w=0.5u l=0.2u ng=1 m=n
XM4 net2 v_b VDD VDD sg13_lv_pmos w=1u l=0.2u ng=1 m=n
.ends


* expanding   symbol:  dac_icms_cell/dac_switch.sym # of pins=6
** sym_path: /foss/designs/SAR_ADC_IHP/xschem/dac_icms_cell/dac_switch.sym
** sch_path: /foss/designs/SAR_ADC_IHP/xschem/dac_icms_cell/dac_switch.sch
.subckt dac_switch VDD di_spdt_ctrl VSS v_c v_b v_a  W_P_TG=3.0u L_P_TG=0.13u W_N_TG=1.0u L_N_TG=0.13u n=1
*.iopin v_a
*.iopin v_c
*.iopin VDD
*.iopin VSS
*.ipin di_spdt_ctrl
*.iopin v_b
x1 VDD di_spdt_ctrl_n VSS net2 v_a di_spdt_ctrl transmission_gate_lv_w_dummy W_P=W_P_TG L_P=L_P_TG W_N=W_N_TG L_N=L_N_TG
+ W_P_D=1.0u L_P_D=0.13u W_N_D=1.0u L_N_D=0.13u n=n
x8 VDD di_spdt_ctrl di_spdt_ctrl_n VSS inverter_lv W_P=W_P_TG L_P=L_P_TG W_N=W_N_TG L_N=L_N_TG n=n
XM1 net1 v_b VSS VSS sg13_lv_nmos w=1u l=0.2u ng=1 m=n
XM3 net1 v_b VDD VDD sg13_lv_pmos w=2u l=0.2u ng=1 m=n
x2 VDD di_spdt_ctrl VSS net3 net1 di_spdt_ctrl_n transmission_gate_lv_w_dummy W_P=W_P_TG L_P=L_P_TG W_N=W_N_TG L_N=L_N_TG
+ W_P_D=1.0u L_P_D=0.13u W_N_D=1.0u L_N_D=0.13u n=n
V1 v_c net2 0
V2 v_c net3 0
.ends


* expanding   symbol:  transmission_gate/transmission_gate_lv_wo_dummy.sym # of pins=6
** sym_path: /foss/designs/SAR_ADC_IHP/xschem/transmission_gate/transmission_gate_lv_wo_dummy.sym
** sch_path: /foss/designs/SAR_ADC_IHP/xschem/transmission_gate/transmission_gate_lv_wo_dummy.sch
.subckt transmission_gate_lv_wo_dummy VDD di_tg_ctrl VSS v_b v_a di_tg_ctrl_n  W_P=1.0u L_P=0.13u W_N=1.0u L_N=0.13u
*.iopin v_a
*.iopin v_b
*.iopin VDD
*.iopin VSS
*.ipin di_tg_ctrl
*.ipin di_tg_ctrl_n
XM1 v_a di_tg_ctrl v_b VSS sg13_lv_nmos w=W_N l=L_N ng=1 m=1
XM2 v_a di_tg_ctrl_n v_b VDD sg13_lv_pmos w=W_P l=L_P ng=1 m=1
.ends

.GLOBAL GND
.end
